US07544835B2
Dimethyl 2-(3-{2-[(4-methoxyanilinocarbonyl)-oxy]ethyl}benzyl)malonate
Using dimethyl 2-[3-(2-hydroxyethyl)benzyl]malonate and 4-methoxyphenylisocyanate, the title compound was obtained in the same manner as described in Example 192b).

reactant | dimethyl 2-[3-(2-hydroxyethyl)benzyl]malonate | OCCC=1C=C(CC(C(=O)OC)C(=O)OC)C=CC1 | C14H18O5
reactant | 4-methoxyphenylisocyanate | COC1=CC=C(C=C1)N=C=O | C8H7NO2
product | Dimethyl 2-(3-{2-[(4-methoxyanilinocarbonyl)-oxy]ethyl}benzyl)malonate | COC1=CC=C(NC(=O)OCCC=2C=C(CC(C(=O)OC)C(=O)OC)C=CC2)C=C1 | C22H25NO7
